US05444042
Z-Leu-Phe-CO2Bzl.
This compound was prepared from Z-Leu-Phe-OH and benzyl oxalyl chloride in 17% yield by the procedure described in the synthesis of Z-Leu-Phe-CO2Et, except that benzyl oxalyl chloride was used in place of ethyl oxalyl chloride and sodium benzyloxide in benzyl alcohol was used for enol ester hydrolysis. Single spot on TLC, Rf =0.63 (CHCl3 :CH3OH=50:1). Pale yellow solid, mp 117°-119° C. MS(FAB) m/e=532 (m+1). H1NMR ok.

reactant | Z-Leu-Phe-OH | N([C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H28N2O5
reactant | Z-Leu-Phe-CO2Et | N([C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C26H32N2O6
reactant | sodium benzyloxide | C(C1=CC=CC=C1)OCC1=CC=CC=C1.[Na]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
solvent | CH3OH | CO | CH4O
product | Z-Leu-Phe-CO2Bzl | 17% yield | N([C@@H](CC(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C31H34N2O6
